US04631081
3-Hydroxy-5-(3-pyridyl)-2-butyrylcyclohex-2-en-1-one (1.0 g) was stirred with O-ethylhydroxylamine hydrochloride (1.1 equiv) and sodium acetate trihydrate (1.1 equiv) in ethanol (30 ml) at room temperature for 12 hr. The mixture was poured into a dilute acetic acid solution, which was subsequently extracted with ether. The dried (MgSO4) organic extract was evaporated to give 2-[1-(ethoxyimino)-butyl]-3-hydroxy-5-(3-pyridyl)cyclohex-2-en-1-one as an oil.

reactant | 3-Hydroxy-5-(3-pyridyl)-2-butyrylcyclohex-2-en-1-one | 1.0 g | OC1=C(C(CC(C1)C=1C=NC=CC1)=O)C(CCC)=O | C15H17NO3
reactant | O-ethylhydroxylamine hydrochloride | 1.1 equiv | Cl.C(C)ON
reactant | sodium acetate trihydrate | 1.1 equiv | O.O.O.C(C)(=O)[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-[1-(ethoxyimino)-butyl]-3-hydroxy-5-(3-pyridyl)cyclohex-2-en-1-one | C(C)ON=C(CCC)C=1C(CC(CC1O)C=1C=NC=CC1)=O | C17H22N2O3
